US08729095B2
A trifluoroacetic acid solution (10 ml) of tert-butyl 4-({2-[(1S)-2-tert-butoxy-1-methyl-2-oxoethoxy]-5-fluoropyridin-3-yl}amino)piperidine-1-carboxylate (861 mg) was stirred at room temperature for 24 hours, and then concentrated under reduced pressure. To the residue were added dichloromethane and a saturated aqueous sodium hydrogen carbonate solution, and the solution was separated. The aqueous layer was saturated with salt, and then extracted with dichloromethane. The collected organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford (3S)-7-fluoro-3-methyl-1-piperidin-4-yl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one (434 mg).

reactant | tert-butyl 4-({2-[(1S)-2-tert-butoxy-1-methyl-2-oxoethoxy]-5-fluoropyridin-3-yl}amino)piperidine-1-carboxylate | 861 mg | C(C)(C)(C)OC([C@@H](OC1=NC=C(C=C1NC1CCN(CC1)C(=O)OC(C)(C)C)F)C)=O | C22H34FN3O5
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3S)-7-fluoro-3-methyl-1-piperidin-4-yl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one | 434 mg | FC1=CC2=C(O[C@H](C(N2C2CCNCC2)=O)C)N=C1 | C13H16FN3O2
